US04555520
A solution of 1.90 g (11.1 mmol) of 4-phenylpyridine-N-oxide (available from Aldrich Chemical Co.), 4.8 ml (35 mmol) of sieve-dried triethylamine and 4.7 ml (35 mmol) trimethylsilylcyanide in 10 ml of sieve-dried acetonitrile was heated to 100° for 24 hours. The reaction mixture was cooled, quenched with 1 ml of H2O then added to 50 ml of H2O and extracted with three-25 ml portions of ethyl acetate. The organic extracts were combined, dried (MgSO4), concentrated in vacuo and purified by flash chromatography (silica gel, 1:4 EtOAc/petroleum ether) to give 2-cyano-4-phenylpyridine as a white solid. Recrystallization (EtOAc/petroleum ether) of the solid afforded 1.65 g (83%) of title nitrile as white crystals, m.p. 97°-98°.

reactant | 4-phenylpyridine-N-oxide | 11.1 mmol, 1.90 g | C1(=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C11H9NO
reactant | triethylamine | 35 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylcyanide | 35 mmol, 4.7 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-cyano-4-phenylpyridine | C(#N)C1=NC=CC(=C1)C1=CC=CC=C1 | C12H8N2
